US06110960
1-(8-tert-Butyl-4,4-dimethyl-2,3-dihydrobenzopyran-6-yl)-3-hydroxy-3-methyl-1-butanone.
To a cold (-78° C.) solution of 1-(8-tert-butyl-4,4-dimethyl-2,3-dihydrobenzopyran-6-yl)1-ethanone (0.35 g, 1.36 mmol) in CH2Cl2 (3.0 mL) is added TMSOTf (0.32 mL, 1.63 mmol, 1.2 equiv) and (i-Pr)2NEt (0.28 mL, 1.63 mmol, 1.2 equiv) dropwise. The resulting red mixture is stirred at -78° C. for 30 min, and then allowed to warm to room temperature over 1 h. The resulting pale red solution is recooled to -78° C. and acetone (0.12 mL, 1.63 mmol, 1.2 equiv) and TiCl4 (0.15 mL, 1.36 mmol, 1.0 equiv) are added dropwise. The resulting deep red solution is allowed to warm to room temperature over 3.5 h and 0.5N HCl is added and the mixture is stirred for 30 min. The reaction mixture is diluted with hexanes and washed with water and brine. The aqueous layers are extracted with hexanes; the combined organic layers are dried (MgSO4), filtered and concentrated. The residue is purified by flash column chromatography on silica (hexanes, hexanes/EtOAc; 10/1) to give the title compound (0.30 g, 70%) as a pale yellow solid which is recrystallized using pentane.

reactant | 1-(8-tert-butyl-4,4-dimethyl-2,3-dihydrobenzopyran-6-yl)1-ethanone | 1.36 mmol, 0.35 g | C(C)(C)(C)C1=CC(=CC=2C(CCOC21)(C)C)C(C)=O | C17H24O2
reactant | TMSOTf | 1.63 mmol, 0.32 mL, 1.2 equiv | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | (i-Pr)2NEt | 1.63 mmol, 0.28 mL, 1.2 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | acetone | 1.63 mmol, 0.12 mL, 1.2 equiv | CC(=O)C | C3H6O
reactant | HCl | 0.5N | Cl | ClH
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.36 mmol, 0.15 mL, 1.0 equiv | Cl[Ti](Cl)(Cl)Cl
product | 1-(8-tert-Butyl-4,4-dimethyl-2,3-dihydrobenzopyran-6-yl)-3-hydroxy-3-methyl-1-butanone | 0.30 g, 70% | C(C)(C)(C)C1=CC(=CC=2C(CCOC21)(C)C)C(CC(C)(C)O)=O | C20H30O3
